US08003662B2
Step C: Preparation of 4-(7-(2-fluoro-4-(2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamido)phenoxy)thieno[3,2-b]pyridin-2-yl)benzoic acid:
Prepared according to the procedure for Example 112, Step B substituting 4-(7-(4-amino-2-fluorophenoxy)thieno[3,2-b]pyridin-2-yl)benzoic acid (1.25 g, 3.29 mmol) for 4-(7-(4-amino-2-fluorophenoxy)thieno[3,2-b]pyridin-2-yl)-N-methylbenzamide and 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carbonyl fluoride (1.70 g, 5.75 mmol) for 1-((4-fluorophenyl)carbamoyl)cyclopropanecarbonyl fluoride. When the reaction was complete, water (20 mL) was added and the product (1.59 g, 80%) was collected by filtration to get a brown solid. LRMS (esi+) 597 m/z (M+1) detected.

reactant | 4-(7-(4-amino-2-fluorophenoxy)thieno[3,2-b]pyridin-2-yl)-N-methylbenzamide | NC1=CC(=C(OC2=C3C(=NC=C2)C=C(S3)C3=CC=C(C(=O)NC)C=C3)C=C1)F | C21H16FN3O2S
reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carbonyl fluoride | 5.75 mmol, 1.70 g | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)F | C11H6F2N2O2
reactant | 1-((4-fluorophenyl)carbamoyl)cyclopropanecarbonyl fluoride | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)F | C11H9F2NO2
solvent | water | 20 mL | O | H2O
product | 4-(7-(2-fluoro-4-(2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamido)phenoxy)thieno[3,2-b]pyridin-2-yl)benzoic acid | FC1=C(OC2=C3C(=NC=C2)C=C(S3)C3=CC=C(C(=O)O)C=C3)C=CC(=C1)NC(=O)C=1C(N(N=CC1)C1=CC=C(C=C1)F)=O | C31H18F2N4O5S
